US04608374
11-{1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 50 ml dry DMF were added 11-(piperidin-4-yl)-5H,11H-pyrrolo2,1-c][1,4]benzoxazepine (3.0 g, 0.0112 mole), 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole (4.2 g, 0.02 mole), milled K2CO3 (10 g, 0.07 mole) and KI (0.01 g).

reactant | [1,4]benzoxazepine | 0.0112 mole, 3.0 g | O1C=CN=CC2=C1C=CC=C2 | C9H7NO
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 0.02 mole, 4.2 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | K2CO3 | 0.07 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 11-{1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)C2OC3=C(CN4C2=CC=C4)C=CC=C3)C=C1 | InChI=1S/C27H28FN3O2.C2H2O4/c28-21-9-10-22-23(29-33-26(22)17-21)6-3-13-30-15-11-19(12-16-30)27-24-7-4-14-31(24)18-20-5-1-2-8-25(20)32-27;3-1(4)2(5)6/h1-2,4-5,7-10,14,17,19,27H,3,6,11-13,15-16,18H2;(H,3,4)(H,5,6)
